US04938790
Preparation of 2,2-Bis(2-methoxyphenyl)propane.
1,1-Bis(2-methoxyphenyl)ethene (15.6 g), toluene (35 ml) and anisole (35 ml) were combined in a flask and 35 ml of a 3.7M hexane solution of Red-Al was added. The mixture was heated to reflux with stirring whereupon it turned dark red. After 2 hours the heat was removed and the mixture was allowed to stir overnight. The excess hydride reagent was carefully quenched with 1.0N hydrochloric acid. The mixture was then diluted with ether and the ethereal solution separated, dried over magnesium sulfate, filtered, and concentrated by evaporation under reduced pressure to obtain a golden-brown oil. This was triturated with hexane to obtain 3.70 of the title compound. The proton and carbon NMR spectra were consistent with the assigned structure.

reactant | 1,1-Bis(2-methoxyphenyl)ethene | 15.6 g | COC1=C(C=CC=C1)C(=C)C1=C(C=CC=C1)OC | C16H16O2
reactant | toluene | 35 ml | C1(=CC=CC=C1)C | C7H8
reactant | anisole | 35 ml | C1(=CC=CC=C1)OC | C7H8O
reactant | Red-Al | COCCO[AlH2-]OCCOC.[Na+]
solvent | hexane | 3.7M | CCCCCC | C6H14
product | 2,2-Bis(2-methoxyphenyl)propane | COC1=C(C=CC=C1)C(C)(C)C1=C(C=CC=C1)OC | C17H20O2
